US09120822B2
Sodium borohydride (179 mg, 4.73 mmol, 8.0 eq) is added at 0° C. to a stirred solution of 6-methoxy-3-(4-nitro-pyrazol-1-yl)-1-oxa-9-aza-phenanthren-2-one (200 mg, 0.59 mmol, 1.0 eq) in tetrahydrofuran (50 mL). After 2 hours stirring at 0° C., the reaction mixture is cautiously acidified to pH=1 with a 4N hydrochloric acid aqueous solution. Tetrahydrofuran is evaporated and the residue is extracted with ethyl acetate (3×40 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a residue that is purified by column chromatography (silica gel, eluent: petroleum ethyl acetate:methanol, 20:1, v/v) to afford 4-[3-hydroxy-2-(4-nitro-pyrazol-1-yl)-propyl]-6-methoxy-quinolin-3-ol as a white solid (170 mg, 84% yield).

reactant | Sodium borohydride | 4.73 mmol, 179 mg, 8.0 eq | [BH4-].[Na+]
reactant | 6-methoxy-3-(4-nitro-pyrazol-1-yl)-1-oxa-9-aza-phenanthren-2-one | 0.59 mmol, 200 mg, 1.0 eq | COC=1C=C2C=3C=C(C(OC3C=NC2=CC1)=O)N1N=CC(=C1)[N+](=O)[O-] | C16H10N4O5
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-[3-hydroxy-2-(4-nitro-pyrazol-1-yl)-propyl]-6-methoxy-quinolin-3-ol | 170 mg, 84% yield | OCC(CC1=C(C=NC2=CC=C(C=C12)OC)O)N1N=CC(=C1)[N+](=O)[O-] | C16H16N4O5
